US07285569B2
N-(1-ethyl-3,3-dimethyl-5-nitro-2-oxo-2,3-dihydro-1H-indol-6-yl)-acetamide (5.2 g, 17.85 mmol) was dissolved in ethanol (40 ml). After addition of hydrochloric acid (25%, 8 ml, 81.44 mmol) the mixture was stirred under reflux for 3 h. The reaction mixture was allowed to cool down to room temperature and then quenched with water (80 ml). The yellow precipitate was isolated by suction and washed with ethanol/water (1:1). The solid was dissolved in ethyl acetate, dried over sodium sulfate and concentrated to yield 4.15 g (93%) 6-amino-1-ethyl-3,3-dimethyl-5-nitro-1,3-dihydro-indol-2-one as a orange solid.

reactant | N-(1-ethyl-3,3-dimethyl-5-nitro-2-oxo-2,3-dihydro-1H-indol-6-yl)-acetamide | 17.85 mmol, 5.2 g | C(C)N1C(C(C2=CC(=C(C=C12)NC(C)=O)[N+](=O)[O-])(C)C)=O | C14H17N3O4
reactant | hydrochloric acid | 81.44 mmol, 8 ml | Cl | ClH
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 6-amino-1-ethyl-3,3-dimethyl-5-nitro-1,3-dihydro-indol-2-one | 4.15 g, 93% | NC1=C(C=C2C(C(N(C2=C1)CC)=O)(C)C)[N+](=O)[O-] | C12H15N3O3
